US08071581B2
Step 4: [6-(1-Methyl-1H-pyrazol-4-yl)-pyrrolo[3,2-b]pyridin-1-yl]-acetic acid hydrazide
[6-(1-Methyl-1H-pyrazol-4-yl)-pyrrolo[3,2-b]pyridin-1-yl]-acetic acid ethyl ester (122 mg, 0.42 mmol) was dissolved in ethanol (1 mL) and hydrazine hydrate (500 uL). The solution was heated to reflux for 1 hour. Next the solution was concentrated down under vacuum and redissolved in a minimal amount of hot methanol. The product crystallized and was a collected by filtration to afford the title compound (114.8 mg, 99% yield). MS m/z=271 [M+H+]+

reactant | [6-(1-Methyl-1H-pyrazol-4-yl)-pyrrolo[3,2-b]pyridin-1-yl]-acetic acid ethyl ester | 0.42 mmol, 122 mg | C(C)OC(CN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C)=O | C15H16N4O2
reactant | hydrazine hydrate | 500 uL | O.NN
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | [6-(1-Methyl-1H-pyrazol-4-yl)-pyrrolo[3,2-b]pyridin-1-yl]-acetic acid hydrazide | 114.8 mg, 99% yield | CN1N=CC(=C1)C=1C=C2C(=NC1)C=CN2CC(=O)NN | C13H14N6O
